* LNA + Mixer Transistor-Level Transient Simulation
* IHP SG13G2 PDK - Matching LNA_77G.sch and MIXER_77G.sch
* Topology: 2-stage cascode LNA -> Gilbert cell mixer

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

.options method=gear reltol=1e-2 abstol=1e-8 vntol=1e-4 itl1=500 itl4=500 gmin=1e-11 trtol=7

** ============================================================
** LUMPED TL MODELS (Pi-section, SG13G2 microstrip Z0=85)
** er_eff=6.5, vp=1.18e8, L=720pH/mm, C=99.7fF/mm, R=22.16Ω/mm
** ============================================================
* 49um: L=35.3pH, C=4.9fF, R=1.09Ω
.subckt TL49 inp outp
Rs1 inp m1 0.54
Ls1 m1 m2 35.3p
Rs2 m2 outp 0.54
Cp1 inp 0 2.4f
Cp2 outp 0 2.4f
.ends TL49

* 58um: L=41.8pH, C=5.8fF, R=1.29Ω
.subckt TL58 inp outp
Rs1 inp m1 0.64
Ls1 m1 m2 41.8p
Rs2 m2 outp 0.64
Cp1 inp 0 2.9f
Cp2 outp 0 2.9f
.ends TL58

* 97um: L=69.8pH, C=9.7fF, R=2.15Ω
.subckt TL97 inp outp
Rs1 inp m1 1.07
Ls1 m1 m2 69.8p
Rs2 m2 outp 1.07
Cp1 inp 0 4.8f
Cp2 outp 0 4.8f
.ends TL97

* 125um: L=90pH, C=12.5fF, R=2.77Ω
.subckt TL125 inp outp
Rs1 inp m1 1.39
Ls1 m1 m2 90p
Rs2 m2 outp 1.39
Cp1 inp 0 6.2f
Cp2 outp 0 6.2f
.ends TL125

* 151um: L=108.7pH, C=15.1fF, R=3.35Ω
.subckt TL151 inp outp
Rs1 inp m1 1.67
Ls1 m1 m2 108.7p
Rs2 m2 outp 1.67
Cp1 inp 0 7.5f
Cp2 outp 0 7.5f
.ends TL151

** ============================================================
** LNA (from LNA_77G.sch)
** Stage 1: Q33(Nx=4) CE + Q35(Nx=4) CB cascode
** Stage 2: Q34(Nx=4) CE + Q36(Nx=4) CB cascode
** Q37(Nx=1): bias mirror
** TL input matching (97um), TL interstage (58um), TL output (151um)
** Load: rppd R32/R33 (bias), rsil R29 (emitter degeneration)
** Supply: 2.4V
** ============================================================
.subckt LNA_77G INP INN OUTP OUTN VCC GND

* Input TL matching (97um each)
XTL_inp INP inp_m TL97
XTL_inn INN inn_m TL97

* Stage 1 CE pair (Q33 Nx=4 and Q34 mirror via Q37 bias)
XQ33 col1_p inp_m em1 GND npn13G2l Nx=4 selft=0
XQ34 col1_n inn_m em1 GND npn13G2l Nx=4 selft=0

* Emitter degeneration (R29: rsil w=7u l=38.8u m=4 ~ 22 ohms)
Re1 em1 GND 22

* Interstage TL (58um)
XTL_s1p col1_p col1_pm TL58
XTL_s1n col1_n col1_nm TL58

* Stage 2 CB cascode (Q35, Q36 Nx=4)
* Base bias at B35&36 (fixed from supply through R30/R31)
XQ35 col2_p bias_cb col1_pm GND npn13G2l Nx=4 selft=0
XQ36 col2_n bias_cb col1_nm GND npn13G2l Nx=4 selft=0

* CB bias network (R30: rppd ~121 ohms, R31: rppd ~61 ohms)
* Sets cascode base ~ 1.4V for proper Vce headroom
Rb_cb1 VCC bias_cb 500
Rb_cb2 bias_cb GND 300

* Output TL (151um)
XTL_outp col2_p outp_m TL151
XTL_outn col2_n outn_m TL151

* Collector loads (R32: rppd ~ 200 ohms effective)
RL_p VCC outp_m 200
RL_n VCC outn_m 200

* Output DC blocking caps (C55/C56: cap_cmim 4x4um ~ 0.5pF)
Cout_p outp_m OUTP 500f
Cout_n outn_m OUTN 500f

* Bias current (set by Q37 mirror, ~4mA total)
Ibias em1 GND DC 0
* Note: bias is set by the CE pair Vbe; tail resistor Re1 sets Ie

.ends LNA_77G

** ============================================================
** MIXER (from MIXER_77G.sch)
** Gilbert cell: Q22-Q25 (Nx=4) switching quad
** Q20,Q21 (Nx=4) RF transconductance pair
** TL matching at all inputs (49-125um)
** Supply: 2.4V, RL=200 (from rppd R21/R22)
** ============================================================
.subckt MIXER_77G RFP RFN LOP LON IFP IFN VCC GND

* RF input TL (125um)
XTL_rfp RFP rfp_m TL125
XTL_rfn RFN rfn_m TL125

* RF transconductance pair (Q20 Nx=4, Q21 Nx=4)
XQ20 elol rfp_m mtail GND npn13G2l Nx=4 selft=0
XQ21 elor rfn_m mtail GND npn13G2l Nx=4 selft=0

* Tail current (4mA)
Itail mtail GND DC 4m

* LO input TLs (49um)
XTL_lop LOP lop_m TL49
XTL_lon LON lon_m TL49

* Switching quad (Q22-Q25 Nx=4)
XQ22 IFP lop_m elol GND npn13G2l Nx=4 selft=0
XQ23 IFN lon_m elol GND npn13G2l Nx=4 selft=0
XQ24 IFN lop_m elor GND npn13G2l Nx=4 selft=0
XQ25 IFP lon_m elor GND npn13G2l Nx=4 selft=0

* IF load resistors (R21/R22: rppd ~200 ohms)
RL1 VCC IFP 200
RL2 VCC IFN 200

.ends MIXER_77G

** ============================================================
** TOP-LEVEL TESTBENCH
** ============================================================

* Supply
Vcc vcc 0 2.4

* 77GHz RF input (1mV differential - target RX signal)
Vrf_p rf_p 0 DC 1.0 SIN(1.0 0.5m 77G)
Vrf_n rf_n 0 DC 1.0 SIN(1.0 -0.5m 77G)

* LO drive (2.4V CM, 100mV amplitude at 76.99GHz -> 10MHz IF)
Vlo_p lo_p 0 DC 1.6 SIN(1.6 100m 76.99G)
Vlo_n lo_n 0 DC 1.6 SIN(1.6 -100m 76.99G)

* LNA
X_lna rf_p rf_n lna_op lna_on vcc 0 LNA_77G

* AC coupling LNA -> Mixer RF input (bias at 1.0V for RF pair)
Cc_m1 lna_op mix_rfp 500f
Cc_m2 lna_on mix_rfn 500f
Rb_m1 vcc mix_rfp 2.2k
Rb_m2 mix_rfp 0 1.5k
Rb_m3 vcc mix_rfn 2.2k
Rb_m4 mix_rfn 0 1.5k

* Mixer
X_mixer mix_rfp mix_rfn lo_p lo_n if_p if_n vcc 0 MIXER_77G

** ============================================================
** ANALYSIS
** ============================================================
.tran 0.5p 2n

.control
run
meas tran lna_swing pp v(lna_op) from=0.5n to=2n
meas tran if_swing pp v(if_p) from=0.5n to=2n
quit
.endc

.end