* MIXER Testbench - Using actual xschem-extracted netlist
* Gilbert cell with TL matching + PDK passives

.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.LIB /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

.options method=gear reltol=1e-2 abstol=1e-8 vntol=1e-4 itl4=500 gmin=1e-11 trtol=7
.GLOBAL sub!

Vcc 2V4 0 2.4
Vsub sub! 0 0

* RF input at 77GHz (1mVpp differential)
Vrf_p RFP 0 DC 1.0 SIN(1.0 0.5m 77G)
Vrf_n RFN 0 DC 1.0 SIN(1.0 -0.5m 77G)

* LO at 76.99GHz (100mV amplitude -> 10MHz IF)
Vlo_p LOP 0 DC 1.0 SIN(1.0 100m 76.99G)
Vlo_n LON 0 DC 1.0 SIN(1.0 -100m 76.99G)

** Mixer from xschem netlist (MIXER_77G.sch)
* Switching quad
XQ22 IFP BLOP ELOL sub! npn13G2l Nx=4 selft=0
XQ23 IFN BLON ELOL sub! npn13G2l Nx=4 selft=0
XQ24 IFP BLON ELOR sub! npn13G2l Nx=4 selft=0
XQ25 IFN BLOP ELOR sub! npn13G2l Nx=4 selft=0
* RF transconductance pair
XQ20 ELOL BRFP 0 sub! npn13G2l Nx=4 selft=0
XQ21 ELOR BRFN 0 sub! npn13G2l Nx=4 selft=0
* Bias mirrors
XQ27 RFBIAS RFBIAS 0 sub! npn13G2l Nx=1 selft=0
XQ26 LOBIAS LOBIAS RFBIAS sub! npn13G2l Nx=1 selft=0

* Transmission lines as lumped Pi-sections
* TL21/23: 49um (LO bias stub) -> L=21.8pH, C=3.01fF, R=1.09
RTL21a BLOP tl21m 0.54
LTL21 tl21m tl21m2 21.8p
RTL21b tl21m2 LOBIAS 0.54
CTL21a BLOP 0 1.50f
CTL21b LOBIAS 0 1.50f
RTL23a BLON tl23m 0.54
LTL23 tl23m tl23m2 21.8p
RTL23b tl23m2 LOBIAS 0.54
CTL23a BLON 0 1.50f
CTL23b LOBIAS 0 1.50f
* TL22/24: 66um (LO input) -> L=29.4pH, C=4.06fF, R=1.46
RTL22a BLOP tl22m 0.73
LTL22 tl22m tl22m2 29.4p
RTL22b tl22m2 LOP 0.73
CTL22a BLOP 0 2.03f
CTL22b LOP 0 2.03f
RTL24a BLON tl24m 0.73
LTL24 tl24m tl24m2 29.4p
RTL24b tl24m2 LON 0.73
CTL24a BLON 0 2.03f
CTL24b LON 0 2.03f
* TL25/27: 125um (RF bias stub) -> L=55.7pH, C=7.69fF, R=2.77
RTL25a BRFP tl25m 1.39
LTL25 tl25m tl25m2 55.7p
RTL25b tl25m2 RFBIAS 1.39
CTL25a BRFP 0 3.84f
CTL25b RFBIAS 0 3.84f
RTL27a BRFN tl27m 1.39
LTL27 tl27m tl27m2 55.7p
RTL27b tl27m2 RFBIAS 1.39
CTL27a BRFN 0 3.84f
CTL27b RFBIAS 0 3.84f
* TL26/28: 125um (RF input) -> same as above
RTL26a BRFP tl26m 1.39
LTL26 tl26m tl26m2 55.7p
RTL26b tl26m2 RFP 1.39
CTL26a BRFP 0 3.84f
CTL26b RFP 0 3.84f
RTL28a BRFN tl28m 1.39
LTL28 tl28m tl28m2 55.7p
RTL28b tl28m2 RFN 1.39
CTL28a BRFN 0 3.84f
CTL28b RFN 0 3.84f

* PDK passives
XR21 2V4 IFP sub! rppd w=3e-6 l=18.23e-6 m=2 b=0
XR22 2V4 IFN sub! rppd w=3e-6 l=18.23e-6 m=2 b=0
XR23 2V4 LOBIAS sub! rppd w=3e-6 l=27.48e-6 m=1 b=0
XC42 RFBIAS 0 cap_cmim w=30e-6 l=30e-6
XC37 LOP 0 cap_cmim w=5e-6 l=5e-6
XC38 LON 0 cap_cmim w=5e-6 l=5e-6
XC39 RFP 0 cap_cmim w=4e-6 l=4e-6
XC40 RFN 0 cap_cmim w=4e-6 l=4e-6
XC41 2V4 LOBIAS cap_cmim w=30e-6 l=30e-6
XC43 2V4 0 cap_cmim w=30e-6 l=30e-6

.tran 0.5p 2n

.control
run
meas tran if_swing pp v(IFP) from=0.5n to=2n
meas tran ifn_swing pp v(IFN) from=0.5n to=2n
quit
.endc

.end